US06756378B2
To a stirred solution of tert-butyl 4-amino-3-methoxyphenylacetate (1.11 g, 4.68 mmol) and Et3N (720 ml 5.17 mmol) in THF (10 ml) was added 2-trifluoromethylphenyl isocyanate (707 ml, 4.68 mmol) and the reaction mixture was stirred at room temperature for 2 days. The reaction mixture was concentrated to a small volume and diluted with n-hexane. Resulting precipitate was collected under a reduced pressure and washed with n-hexane to give tert-butyl 3-methoxy-4-[N′-(2-trifluoromethylphenyl)ureido]phenylacetate (1.11 g, 56%) as a white crystalline powder. mp 131-133° C.; 1H-NM (CDCl3) δ1.44 (s, 9 H), 3.49 (s, 2 H), 3.85 (s, 3 H), 6.83-6.88 (m, 3 H), 6.98 (br s, 1 H), 7.17-7.21 (m, 1 H), 7.52-7.59 (m, 2 H), 7.89-7.91 (m, 1 H), 8.04-8.06 (m, 1 H).

reactant | tert-butyl 4-amino-3-methoxyphenylacetate | 4.68 mmol, 1.11 g | NC1=C(C=C(C=C1)CC(=O)OC(C)(C)C)OC | C13H19NO3
reactant | Et3N | 5.17 mmol, 720 ml | CCN(CC)CC | C6H15N
reactant | 2-trifluoromethylphenyl isocyanate | 4.68 mmol, 707 ml | FC(C1=C(C=CC=C1)N=C=O)(F)F | C8H4F3NO
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | tert-butyl 3-methoxy-4-[N′-(2-trifluoromethylphenyl)ureido]phenylacetate | 1.11 g, 56% | COC=1C=C(C=CC1NC(=O)NC1=C(C=CC=C1)C(F)(F)F)CC(=O)OC(C)(C)C | C21H23F3N2O4
